US04968794
[4-(2-Chlorophenyl)-9-methyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]-diazepin-2-yl]-methane carboxylic acid morpholide
Here, [4-(2-chlorophenyl)-9-methyl-6H-thieno[3,2-f][1,2,4]-triazolo[4,3-a][1,4]diazepin-2-yl]-methane carboxylic acid (20 g, 0.054 mol), tetrahydrofuran (500 ml) and 1,1'-carbonyldiimidazole (10 g) are stirred for 1 hour at ambient temperature and the solution, now clear, is mixed with morpholine (0.06 mol, 5.2 g). After stirring overnight at ambient temperature, evaporation, taking up in methylene chloride, washing with sodium bicarbonate solution and filtering through a column of SiO2, the title compound (9.4 g), m.p. 143°-144° C., is obtained by recrystallization from ethyl acetate.

reactant | [4-(2-chlorophenyl)-9-methyl-6H-thieno[3,2-f][1,2,4]-triazolo[4,3-a][1,4]diazepin-2-yl]-methane carboxylic acid | 0.054 mol, 20 g | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(S3)CC(=O)O)C(=NN2)C | C17H13ClN4O2S
reactant | 1,1'-carbonyldiimidazole | 10 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | morpholine | 0.06 mol, 5.2 g | N1CCOCC1 | C4H9NO
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | [4-(2-Chlorophenyl)-9-methyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]-diazepin-2-yl]-methane carboxylic acid morpholide | 9.4 g | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(S3)CC(=O)N3CCOCC3)C(=NN2)C | C21H20ClN5O2S
